US08048887B2
To a 250 mL round-bottomed flask was added methyl 4-(2-amino-2-oxoethoxy)-2-methoxybenzoate (1.2 g, 5.14 mmol) and chloroform (40 mL). The mixture was placed under a nitrogen atmosphere and cooled to 0° C. Bromine (0.263 mL, 5.14 mmol) was added drop wise (in 3 mL of chloroform) and the solution was allowed to warm to room temperature overnight. The orange solid was cooled with an ice bath, filtered, washed sequentially with cold chloroform, then diethyl ether. The product was dried under vacuum giving 1.7 grams (91% yield) of methyl 4-(2-amino-2-oxoethoxy)-5-bromo-2-methoxybenzoate as an orange solid. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×30 mm column, with a gradient of 0-100% B (B=90% HPLC grade methanol/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade methanol), in 2 minutes with a 1 minute hold at a rate of 4 mL/minute. 1H NMR (400 MHz, THF-d8) δ ppm 3.76 (s, 3H), 3.88 (s, 3H), 4.63 (s, 2H), 6.76 (s, 1H), 7.10 (br. s., 2H), 7.96 (s, 1H). LCMS Rt=1.793 min., m/z 319.1 (M+H), 90% purity.

reactant | methyl 4-(2-amino-2-oxoethoxy)-2-methoxybenzoate | 5.14 mmol, 1.2 g | NC(COC1=CC(=C(C(=O)OC)C=C1)OC)=O | C11H13NO5
reactant | Bromine | 5.14 mmol, 0.263 mL | BrBr | Br2
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-(2-amino-2-oxoethoxy)-5-bromo-2-methoxybenzoate | 1.7 grams, 91% yield | NC(COC1=CC(=C(C(=O)OC)C=C1Br)OC)=O | C11H12BrNO5
